US05346917
To a mixture of m-anisic acid (250 g, 1.67 mol) in acetic acid (1 L) was added bromine (85 mL) and then water (1 L). The mixture was heated to reflux, cooled in an ice bath and the product which precipitated was collected by filtration and washed with water to afford 305.7 g (79%) of 2-bromo-5-methoxybenzoic acid, m.p. 154°-156° C.

reactant | m-anisic acid | 1.67 mol, 250 g | C(C1=CC(=CC=C1)OC)(=O)O | C8H8O3
reactant | bromine | 85 mL | BrBr | Br2
reactant | water | 1 L | O | H2O
solvent | acetic acid | 1 L | C(C)(=O)O | C2H4O2
product | 2-bromo-5-methoxybenzoic acid | 305.7 g, 79% | BrC1=C(C(=O)O)C=C(C=C1)OC | C8H7BrO3
